* Provenance: written for circsim from manufacturer datasheet parameters, MIT.
* In-house BEHAVIORAL linear-regulator (LDO / 78xx) macromodels. No vendor model
* text is copied: this is a generic behavioral pass element whose regulated
* output, dropout voltage, and current limit are passed as DATASHEET parameters
* by the per-part .subckt wrappers below. Datasheet electrical characteristics
* (Vout, dropout @ Iload, current-limit / short-circuit current) are facts.
*
* ---------------------------------------------------------------------------
* GENERIC PARAMETERIZED LINEAR REGULATOR CORE
* ---------------------------------------------------------------------------
* Nodes:  vin gnd vout
* Params:
*   vreg    regulated output voltage (V)
*   drop    dropout voltage at the rated load (V) — output cannot exceed vin-drop
*   ilim    current limit (A) — output current is folded back above this
*   rout    closed-loop output resistance (ohm) — small, sets load regulation
*   iq      quiescent ground current (A)
*
* Behavior:
*   The pass element sources current into vout to hold v(vout) at the regulated
*   target, but the target is clamped so it can never exceed (vin - drop)
*   (dropout behavior) and never go below 0. The output is driven by a
*   voltage source through rout; a series behavioral resistor enforces the
*   current limit by raising its resistance sharply once |I(vout)| > ilim.
.subckt reg_lin vin gnd vout
+ params: vreg=5 drop=2 ilim=1 rout=0.05 iq=5m
* Regulated target = min(vreg, vin-drop), floored at 0 (dropout behavior).
* The pass element is a behavioral voltage source on internal node 'reg', then a
* current-sense ammeter 'vsense' feeds the external output through rout.
breg reg gnd v = ( (v(vin)-drop) < vreg ) ?
+ ( ((v(vin)-drop) > 0) ? (v(vin)-drop) : 0 ) : vreg
* output resistance for load regulation, then a 0 V ammeter to sense Iout.
rpass reg rsen {rout}
vsense rsen vout 0
* Current-limit foldback: once the sensed output current exceeds ilim, sink the
* excess back to gnd so the net delivered current is held at the limit. i(vsense)
* is the current flowing out of the regulator into the load.
bilim vout gnd i = ( i(vsense) > ilim ) ? ( (i(vsense)-ilim) ) : 0
* quiescent ground current drawn from the input rail.
biq vin gnd i = iq
.ends reg_lin

* ---------------------------------------------------------------------------
* 7805 +5V fixed regulator (TO-220 / SOT-223 / DPAK).
* Datasheet typ: Vout=5.0V, dropout ~2 V @ 1 A, Iout up to 1 A, Iq ~ 5 mA,
* short-circuit current ~ 750 mA - 1.5 A.
.subckt 7805 vin gnd vout
xr vin gnd vout reg_lin params: vreg=5.0 drop=2.0 ilim=1.0 rout=0.02 iq=5m
.ends 7805

* ---------------------------------------------------------------------------
* 7812 +12V fixed regulator.
* Datasheet typ: Vout=12.0V, dropout ~2 V, Iout up to 1 A, Iq ~ 5 mA.
.subckt 7812 vin gnd vout
xr vin gnd vout reg_lin params: vreg=12.0 drop=2.0 ilim=1.0 rout=0.02 iq=5m
.ends 7812

* ---------------------------------------------------------------------------
* 7833 / 78M33 +3.3V fixed regulator (78xx-style).
* Datasheet typ: Vout=3.3V, dropout ~1.7 V, Iout up to 0.5-1 A.
.subckt 7833 vin gnd vout
xr vin gnd vout reg_lin params: vreg=3.3 drop=1.7 ilim=1.0 rout=0.02 iq=5m
.ends 7833

* ---------------------------------------------------------------------------
* AMS1117-3.3 LDO (SOT-223). Datasheet typ: Vout=3.3V, dropout ~1.1-1.3 V @ 1 A,
* Iout up to 1 A, Iq (ground current) ~ 5-11 mA.
.subckt AMS1117-3.3 vin gnd vout
xr vin gnd vout reg_lin params: vreg=3.3 drop=1.3 ilim=1.0 rout=0.03 iq=6m
.ends AMS1117-3.3

* ---------------------------------------------------------------------------
* AMS1117-5.0 LDO (SOT-223). Datasheet typ: Vout=5.0V, dropout ~1.3 V @ 1 A.
.subckt AMS1117-5.0 vin gnd vout
xr vin gnd vout reg_lin params: vreg=5.0 drop=1.3 ilim=1.0 rout=0.03 iq=6m
.ends AMS1117-5.0

* ---------------------------------------------------------------------------
* TL431 / TL432 / AZ431 programmable shunt reference (behavioral).
* Nodes: k a ref  (cathode, anode, reference)
* Datasheet typ: Vref=2.495V. The error stage compares v(ref,a) against Vref
* and drives a shunt element that sinks cathode current once v(ref,a) exceeds
* Vref. Transconductance ~10 A/V models the >1 A/V large-signal gain sharply
* enough for bench fidelity while staying convergent. Off-state cathode
* leakage ~1uA; ref input bias ~2uA. Min cathode current is not enforced.
.subckt TL431 k a ref
* high-gain error stage -> shunt element: sink from cathode to anode above Vref.
bshunt k a i = ( v(ref,a) > 2.495 ) ? ( (v(ref,a)-2.495)*10 + 1u ) : 1u
* reference-pin input bias current (~2uA into the ref pin)
bref ref a i = 2u
.ends TL431
